US06436923B1
A. 2-(4-Fluorobenzoyl)-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared as described in Example 24.A, using 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline (0.72 g, 2.0 mmol) and 4-fluorobenzoyl chloride (0.475 g, 3.0 mmol) to provide the title compound (0.786 g, 82% yield): ES-MS (m/z) 482 [M+H]+.

reactant | 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 2.0 mmol, 0.72 g | COC=1C=C2CCNC(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H25NO2
reactant | 4-fluorobenzoyl chloride | 3.0 mmol, 0.475 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 2-(4-Fluorobenzoyl)-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 0.786 g, 82% yield | FC1=CC=C(C(=O)N2C(C3=CC=C(C=C3CC2)OC)CC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C31H28FNO3
